US07572801B2
7-Fluoro-2-[2-(3-trifluoromethyl-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one
The title compound was prepared in analogy to example 85 from 2,6-difluoropyridine-3-carboxylic acid and 2-[2-(3-trifluoromethyl-phenyl)-ethoxy]-acetamidine hydrochloride. Brown solid. MS: m/e=368.1 [M+H+].

reactant | 2,6-difluoropyridine-3-carboxylic acid | FC1=NC(=CC=C1C(=O)O)F | C6H3F2NO2
reactant | 2-[2-(3-trifluoromethyl-phenyl)-ethoxy]-acetamidine hydrochloride | Cl.FC(C=1C=C(C=CC1)CCOCC(=N)N)(F)F
product | 7-Fluoro-2-[2-(3-trifluoromethyl-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one | FC=1C=CC2=C(N=C(NC2=O)COCCC2=CC(=CC=C2)C(F)(F)F)N1 | C17H13F4N3O2
